US09227976B2
Step 5: 4-chloro-3-(3-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine
Sodium nitrite (740 mg, 10.7 mmol) was added portionwise to cHCl (24 mL) at −15° C. and stirred for 15 min. 3-(3-fluorophenyl)-4-(2-phenylethynyl)-1H-pyrazol-5-amine (1 g, 3.6 mmol) was added as a solid, followed by the addition of CH2Cl2 (10 mL). The reaction mixture was allowed to warm up and stirred at room temperature for 1.5 h. The reaction mixture was diluted with CH2Cl2 (20 mL) and NaCl (0.5 g) was added. The reaction mixture was heated to 50° C. for 1 d. The layers were separated and the organic layer was washed with water, dried (phase separator cartridge) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, ethyl acetate/isohexane 0:1 to 7:3) yielding the title compound as a solid (500 mg).

reactant | Sodium nitrite | 10.7 mmol, 740 mg | N(=O)[O-].[Na+]
reactant | cHCl | 24 mL | [CH]Cl | CHCl
reactant | 3-(3-fluorophenyl)-4-(2-phenylethynyl)-1H-pyrazol-5-amine | 3.6 mmol, 1 g | FC=1C=C(C=CC1)C1=NNC(=C1C#CC1=CC=CC=C1)N | C17H12FN3
reactant | NaCl | 0.5 g | [Na+].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-(3-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 500 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC(=CC=C2)F | C17H10ClFN4
